US07319104B2
A solution of ethyl 2-[4-(2-{(5-bromopyridin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate (500 mg; 0.86 mmol) in 3 ml of Et3N was treated under nitrogen with tetrakis(triphenylphosphine)palladium (0) (99 mg; 0.086 mmol) and copper (I) iodide (16 mg; 0.086 mmol). After stirring at rt for 5 minutes, propargyl alcohol (72 mg; 1.29 mmol) was added and the mixture heated at 65C for 7 hr. Upon cooling the reaction mixture was concentrated and the residue was partitioned between ethyl acetate and 0.1N HCl. The organic phase was washed with 0.1N HCl and brine, dried over sodium sulfate and concentrated. Purification by radial chromatography using ethyl acetate-hexane mixtures (5–50% gradient) afforded ethyl 2-[4-(2-{[5-(3-hydroxyprop-1-ynyl)pyridin-2-yl][4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate.

reactant | ethyl 2-[4-(2-{(5-bromopyridin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | 0.86 mmol, 500 mg | BrC=1C=CC(=NC1)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)OC(F)(F)F | C27H28BrF3N2O4
reactant | propargyl alcohol | 1.29 mmol, 72 mg | C(C#C)O | C3H4O
solvent | Et3N | 3 ml | CCN(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium | 0.086 mmol, 99 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper (I) iodide | 0.086 mmol, 16 mg | [Cu]I
product | ethyl 2-[4-(2-{[5-(3-hydroxyprop-1-ynyl)pyridin-2-yl][4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | OCC#CC=1C=CC(=NC1)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)OC(F)(F)F | C30H31F3N2O5
